US07781438B2
Preparation of (6-Chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetic acid methyl ester
To a solution of (3-bromomethyl-6-chloro-quinolin-5-yl)-acetic acid methyl ester (500 mg, 1.52 mmol) in DMF (10 mL) was added a 33% solution of dimethylamine in ethanol (547 μL, 3.04 mmol). The reaction mixture was stirred for 16 h at room temperature, followed by removal of the solvents in vacuo. The residue was purified by flash column chromatography (silica gel, gradient of CH2Cl2/MeOH 100:0 to 90:10) to afford the title compound as a violet solid (424 mg, 1.45 mmol, 95%). %). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=8.89 (d, J=2.0 Hz, 1H), 8.38 (bs, 1H), 8.00 (d, J=9.1 Hz, 1H), 7.80 (d, J=9.1 Hz, 1H), 4.36 (s, 2H), 3.69 (bs, 2H), 3.63 (s, 3H), 2.24 (bs, 6H). MS (ES+): 293 (M(C15H735ClN2O2)+H)+.

reactant | (3-bromomethyl-6-chloro-quinolin-5-yl)-acetic acid methyl ester | 1.52 mmol, 500 mg | COC(CC1=C2C=C(C=NC2=CC=C1Cl)CBr)=O | C13H11BrClNO2
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | 3.04 mmol, 547 μL | C(C)O | C2H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (6-Chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetic acid methyl ester | 1.45 mmol, 424 mg, 95% | COC(CC1=C2C=C(C=NC2=CC=C1Cl)CN(C)C)=O | C15H17ClN2O2
